US06685995B1
The 1-(4-propylphenyl)-4-(4-oxocyclohexyl)-1-cyclohexene described above in an amount of 9.5 g (32 mmol) was dissolved in mixed solvent of 200 ml of THF and 50 ml of ethanol, and cooled down to 0° C. Sodium borohydride in an amount of 1.2 g (32 mmol) was gradually added thereto and the mixture was stirred at the same temperature for 1 hour. The reaction solution was added in 150 ml of 1N hydrochloric acid and extracted with diethyl ether. After the extract was washed with saturated aqueous sodium bicarbonate solution and water in this turn, the solvent was distilled off under a reduced pressure. The residue was dissolved in 80 ml of mixed solvent of ethanol/ethyl acetate (1/1), the solution was subjected to a hydrogenation by using Raney Nickel catalyst, and then the catalyst was filtered off. The solvent was distilled off and then the residue was recrystallized by using toluene to give 2.5 g (8.3 mmol) of 4-(4-(4-hydroxycyclohexyl)cyclohexyl)-1-propylbenzene. Yield of this compound was 26%.

reactant | 1-(4-propylphenyl)-4-(4-oxocyclohexyl)-1-cyclohexene | C(CC)C1=CC=C(C=C1)C1=CCC(CC1)C1CCC(CC1)=O | C21H28O
reactant | Sodium borohydride | [BH4-].[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1N, 150 ml | Cl | ClH
product | 4-(4-(4-hydroxycyclohexyl)cyclohexyl)-1-propylbenzene | 8.3 mmol, 2.5 g | OC1CCC(CC1)C1CCC(CC1)C1=CC=C(C=C1)CCC | C21H32O
